US04113463
3.3 Parts of iminodiacetic acid and 3.2 parts of sodium hydroxide are dissolved in 50 parts of water. Into the resulting aqueous solution, 20 parts of tetrahydrofuran containing 5 parts of p-methoxybenzenesulfonyl chloride was dropped. The resulting mixture is suspending at first, but becomes transparent when stirred at room temperature for about 1.5 hours. The mixture is further stirred at 50° C. for about 20 minutes to terminate the reaction. After completion of the reaction, the reaction liquid is freed from the tetrahydrofuran and then acidified with hydrochloric acid to precipitate crystals. The crystals are collected by filtration and then recrystallized from water to obtain 3.8 parts of N-p-methoxybenzenesulfonyl-iminodiacetic acid, m.p. 177°-178.5° C.

reactant | iminodiacetic acid | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-p-methoxybenzenesulfonyl-iminodiacetic acid | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)O)CC(=O)O | C11H13NO7S
